data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2848,3166,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C-:30]([O+:31]=[C:32]([CH3:33])[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[C:40](=[O:41])[NH:42][CH3:43]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:32]([CH3:33])([c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1)[O:31][C:30]2([C:28]([NH:27][CH3:26])=[O:29])[C:40](=[O:41])[NH:42][CH3:43],water,298.15,20.83982637944662,-48.15681361288269
2427,2695,[CH3:19][NH:20][C:21](=[O:22])[C-:23]([NH+:24]=[C:25]([C:26]#[N:27])[C:28]#[N:29])[C:30](=[O:31])[NH:32][CH3:33].[CH3:1][O:2][CH:3]1[C:4]#[C:5][C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][CH:3]1[C:4]2=[C:5]([C:6]([C:7]([F:8])([F:9])[F:10])([C:11]([F:12])([F:13])[F:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:30](=[O:31])[NH:32][CH3:33])[NH:24][C:25]2([C:26]#[N:27])[C:28]#[N:29],water,298.15,24.116603057207627,-26.97541498107172
3937,4502,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][n+:8]1[c:9](-[c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[o:16][c:17](=[O:18])[c-:19]1[C:20]#[N:21]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:19]2([C:20]#[N:21])[N:8]([CH3:7])[C:9]1([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[O:16][C:17]2=[O:18],water,298.15,35.04633166145211,4.9242101192731695
5254,5959,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[NH:16][C:17]2([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,43.50024983496498,8.289910188951099
5248,5953,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[O:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20](=[O:21])[O:22][CH3:23])[N:24]([CH3:25])[C:26]2([CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,53.36537309643185,11.649702837050116
4650,5303,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[N-:18][N+:19]([CH3:20])=[C:21]([C:22]#[N:23])[C:24]#[N:25]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:18]([C:16]([CH3:15])=[O:17])[N:19]([CH3:20])[C:21]2([C:22]#[N:23])[C:24]#[N:25],water,298.15,27.72737274738206,-2.8164944341379377
3995,4570,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C-:13]([O+:14]=[CH:15][C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:19]([CH3:20])=[O:21])[O:14][CH:15]2[C:16]([CH3:17])=[O:18],water,298.15,2.18129882821206,-45.2031199246608
292,316,[CH3:9][O:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][C:16]([CH3:17])=[O:18].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[N:15]([C:16]([CH3:17])=[O:18])[NH:14][CH:13]2[C:11]([O:10][CH3:9])=[O:12],water,298.15,19.27048842381332,-41.86833582930952
1479,1634,[CH3:12][NH:13][C:14](=[O:15])[C:16]#[N+:17][C-:18]([CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:16]([C:14]([NH:13][CH3:12])=[O:15])=[N:17][C:18]2([CH3:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,7.239633106219848,-45.509911700361
2978,3330,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][N-:10][N+:11]#[C:12][C:13]#[N:14]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:10]([CH3:9])[N:11]=[C:12]2[C:13]#[N:14],water,298.15,11.517517038148744,-39.1147264117252
1464,1613,[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:17]([C:18](=[O:19])[O:20][CH3:21])([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:16]=[C:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,11.839547519375117,-42.81139197910532
